US07820825B2
Preparation of (3′S)-1′-[4-(1H-indol-1-ylmethyl)benzoyl]-1,3′-bipyrrolidine
A solution of indole (0.15 mmol, 19 mg) in a mixture of DMF/THF (1:4, 2 mL) is treated with sodium hydride (50 mg) followed by [1,3′]bipyrrolidinyl-1′-yl-(4-chloromethyl-phenyl)-methanone (0.15 mmol, 43 mg), stirred at room temperature overnight and concentrated in vacuo. The resultant residue is dissolved in a mixture of DMSO, MeOH and water (1.5 mL) and purified by reverse-phase semi-preparative HPLC1 to give the title product as a white powder (8 mg), identified by HPLC and mass spectral analyses. Retention time 1.86 min., MS [374.2 m/e (M+H)].

reactant | indole | 0.15 mmol, 19 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | [1,3′]bipyrrolidinyl-1′-yl-(4-chloromethyl-phenyl)-methanone | 0.15 mmol, 43 mg | N1(CCCC1)C1CN(CC1)C(=O)C1=CC=C(C=C1)CCl | C16H21ClN2O
solvent | DMF THF | 2 mL | CN(C)C=O.C1CCOC1
product | (3′S)-1′-[4-(1H-indol-1-ylmethyl)benzoyl]-1,3′-bipyrrolidine | 8 mg | N1(C=CC2=CC=CC=C12)CC1=CC=C(C(=O)N2C[C@H](CC2)N2CCCC2)C=C1 | C24H27N3O
